US07541372B2
Cyclopropanecarboxylic acid {3-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-amide
To a solution of 3-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenylamine (200 mg, 0.57 mmol) in THF (2 mL) was added N,N-diisopropyl ethyl amine (0.15 mL, 0.86 mmol), 4-dimethylaminopyridine (8 mg, 0.06 mmol) and cyclopropanecarbonyl chloride (68 μL, 0.75 mmol). The resulting suspension was stirred for 18 h at ambient temperature before it was extracted with a mixture of aqueous sodium carbonate (saturated, 20 mL) and ethyl acetate (20 mL). The aqueous layer was extracted with ethyl acetate (20 mL) and the combined organic layers dried over sodium sulfate. Purification by chromatography (SiO2, heptane:ethyl acetate:dichloromethane=40:40:20 to 10:70:20) afforded the title compound (226 mg, 95%) as a light yellow solid. MS: m/e=417.3 [M+H]+.

reactant | 3-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenylamine | 0.57 mmol, 200 mg | COC=1C=C(C=CC1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)N | C19H16N4O3
reactant | N,N-diisopropyl ethyl amine | 0.86 mmol, 0.15 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | cyclopropanecarbonyl chloride | 0.75 mmol, 68 μL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.06 mmol, 8 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Cyclopropanecarboxylic acid {3-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-amide | 226 mg, 95% | COC=1C=C(C=CC1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)NC(=O)C1CC1 | C23H20N4O4
